US06890919B2
A solution of 9.0 g (27.8 mmol) of methyl S-(2-nitro-4-chloromethylphenyl)thiosalicylate in 100 mL of methanol was hydrogenated over Raney nickel (1.12 g) at room temperature and 30 psi pressure with stirring for 17 hours. The residue obtained on evaporation of the methanol was dissolved in chloroform, filtered, dried over MgSO4, filtered, and concentrated in vacuo to provide methyl S-(2-amino-4-chloromethylphenyl)thiosalicylate as a white solid (8.16 g, 55.6%), 1H NMR (300 MHz, CDCl3) δ 4.00 (s, 3H, —OCH3), 4.40 (s, 2H, —NH2), 6.77 (dd, 1H, J=1.2 Hz), 6.79 (dd, 1H, J=2.1 Hz), 6.84 (dd, 1H, J=2.4 Hz), 7.15-7.20 (m, 1H), 7.28-7.34 (m, 1H), 7.40 (d, 1H, J=8.1 Hz), 8.006 (dd, 1H, J=1.5 Hz).

reactant | methyl S-(2-nitro-4-chloromethylphenyl)thiosalicylate | 27.8 mmol, 9.0 g | [N+](=O)([O-])C1=C(C=CC(=C1)CCl)SC=1C(C(=O)OC)=CC=CC1 | C15H12ClNO4S
solvent | methanol | 100 mL | CO | CH4O
catalyst | Raney nickel | 1.12 g | [Ni] | Ni
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | methyl S-(2-amino-4-chloromethylphenyl)thiosalicylate | 8.16 g, 55.6% | NC1=C(C=CC(=C1)CCl)SC=1C(C(=O)OC)=CC=CC1 | C15H14ClNO2S
